Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall from wheelchair
 
Major Surgical or Invasive Procedure:
___ C6-C7

 
History of Present Illness:
Mr. ___ is a ___ year old man with non-rheumatic
aortic valvular disease otherwise unspecified, aortic aneurism
without surgical intervention, CKD unspecified stage, GIB, PVD,
and dementia who presented after sustaining a mechanical fall
from his wheelchair, resulting in a C4 fracture and C6-7 disk
disruption.
 
Past Medical History:
CAD s/p CABG ___
AAA - stable 4cm
Dementia - unspecified
Possible history of GI bleed (no clear records)
Hip fracture ___
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM:
VS:98.2 | 112/78 | 82 | 18 | 98% 2L 
General: Patient is slow to respond to questions and possibly 
hard of hearing. Did respond to yes and no questions with 
significant prompting.
HEENT: PERRLA, No oral lesions. Laceration to bridge of nose and 
erythema dependent perorbital erythema.
Neck: Dressing in place
CV: RRR, S1, S2 no murmurs rubs or gallops appreciated
Lungs: Crackles in lower lobes. Transmitted upper airway sounds 
throughout
Abdomen: Soft non-tender non distended
GU: Foley in place
Ext: Warm well profused, distal pulses 2+ throughout
Neuro: Moves all extremities. No focal deficits.

DISCHARGE EXAM:
VS: 98.4 ___ 18 93-97% RA 
General: Pleasant elderly gentleman that is alert and 
conversive. Some slurred speech. Sitting comfortably in bed 
during interview.
HEENT: Patient without dentures, moist mucus membranes, PERRLA   

Neck: Supple
CV: RRR, no m/r/g
Lungs: CTAB
Abdomen: soft, nontender, nondistended, no HSM appreciated  
GU: Deferred
Ext: WWP, no ___ edema 
Neuro: Arousable and responds to commands. No focal deficits 
noted.
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:45PM BLOOD WBC-6.9 RBC-4.55* Hgb-13.8 Hct-42.9 
MCV-94 MCH-30.3 MCHC-32.2 RDW-12.9 RDWSD-44.9 Plt ___
___ 01:45PM BLOOD ___ PTT-29.5 ___
___ 01:45PM BLOOD Glucose-111* UreaN-21* Creat-1.2 Na-138 
K-4.3 Cl-99 HCO3-26 AnGap-17
___ 01:45PM BLOOD Calcium-8.2* Phos-3.8 Mg-2.1

INTERVAL LABS
=============
___ 12:57PM BLOOD WBC-11.9* RBC-3.95* Hgb-12.2* Hct-36.9* 
MCV-93 MCH-30.9 MCHC-33.1 RDW-13.2 RDWSD-45.2 Plt ___
___ 05:55AM BLOOD WBC-8.3 RBC-3.94* Hgb-12.1* Hct-36.5* 
MCV-93 MCH-30.7 MCHC-33.2 RDW-13.4 RDWSD-45.6 Plt ___
___ 04:20AM BLOOD WBC-10.2* RBC-3.73* Hgb-11.3* Hct-34.9* 
MCV-94 MCH-30.3 MCHC-32.4 RDW-13.2 RDWSD-45.1 Plt ___
___ 06:20AM BLOOD WBC-7.0 RBC-3.37* Hgb-10.5* Hct-32.3* 
MCV-96 MCH-31.2 MCHC-32.5 RDW-13.4 RDWSD-47.1* Plt ___
___ 12:57PM BLOOD Neuts-85.7* Lymphs-7.1* Monos-5.7 
Eos-0.7* Baso-0.3 Im ___ AbsNeut-10.24* AbsLymp-0.85* 
AbsMono-0.68 AbsEos-0.08 AbsBaso-0.03
___ 04:58AM BLOOD ___ PTT-80.2* ___
___ 02:04AM BLOOD ___ PTT-27.4 ___
___ 06:20AM BLOOD ___ PTT-50.5* ___
___ 12:57PM BLOOD Glucose-133* UreaN-19 Creat-1.1 Na-134 
K-4.2 Cl-103 HCO3-19* AnGap-16
___ 04:20AM BLOOD Glucose-112* UreaN-22* Creat-1.2 Na-143 
K-3.7 Cl-104 HCO3-21* AnGap-22*
___ 09:25AM BLOOD Glucose-88 UreaN-28* Creat-1.2 Na-147* 
K-3.7 Cl-110* HCO3-20* AnGap-21*
___ 04:10PM BLOOD Glucose-120* UreaN-26* Creat-1.1 Na-147* 
K-3.7 Cl-111* HCO3-25 AnGap-15
___ 06:55PM BLOOD CK(CPK)-349*
___ 06:55PM BLOOD CK-MB-16* MB Indx-4.6 cTropnT-2.14*
___ 10:40AM BLOOD CK-MB-9 cTropnT-2.19*
___ 06:11AM BLOOD CK-MB-5 cTropnT-3.38*
___ 05:55AM BLOOD Calcium-7.7* Phos-2.9 Mg-1.8
___ 05:55AM BLOOD Albumin-3.3* Calcium-7.7* Phos-2.7 Mg-1.8
___ 06:57AM BLOOD Calcium-8.0* Phos-3.1 Mg-2.0
___ 06:11AM BLOOD %HbA1c-5.2 eAG-103
___ 06:11AM BLOOD Triglyc-115 HDL-39 CHOL/HD-4.5 
LDLcalc-112
___ 06:11AM BLOOD TSH-3.5

DISCHARGE LABS
==============
___ 06:00AM BLOOD WBC-10.0 RBC-3.79* Hgb-11.6* Hct-35.5* 
MCV-94 MCH-30.6 MCHC-32.7 RDW-13.2 RDWSD-45.1 Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-103* UreaN-17 Creat-1.0 Na-140 
K-3.8 Cl-102 HCO3-24 AnGap-18
___ 06:00AM BLOOD Calcium-8.1* Phos-3.2 Mg-1.7

MICRO
======
___ 1:24 pm BLOOD CULTURE      #1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 10:47 am SWAB     Site: URETHRA      Source: Urethral. 

                            **FINAL REPORT ___

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Final
      ___:    Negative for Chlamydia trachomatis by 
___ System,
      APTIMA COMBO 2 Assay. 

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Final ___:    Negative for Neisseria gonorrhoeae by 
PANTHER
      System, APTIMA COMBO 2 Assay.

___ 10:47 am SWAB      Source: Urethral. 

   VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Preliminary): 
      No Herpes simplex (HSV) virus isolated.

IMAGING
========
___ MRI C-SPINE W/CONTRAST:
FINDINGS:  
  
The study is moderately limited by motion artifact. 
  
There is extensive prevertebral edema from the craniocervical 
junction through 
the T3-T4 level. 
  
There is a minimally displaced fracture of the C4 anterior 
superior corner, as 
seen on the preceding CT, with marrow edema parallel to the 
anterior superior 
endplate of C4.  Disruption of the anterior longitudinal 
ligament is suspected 
at this level, though evaluation is limited by motion artifact.  
There is 
edema between the laminae of C3 and C4 bilaterally, extending to 
the margins 
of the facet joints, but without extension into the interspinous 
ligament or 
spinous process.  The facet joints remain well aligned.  
Cervical vertebral 
bodies are also well aligned. 
  
There is a small nondisplaced fracture of the C7 anterior 
superior corner, as 
seen on the preceding CT, with associated disruption of the 
anterior 
longitudinal ligament.  There is also marrow edema parallel to 
the anterior 
superior endplate of C7 and extending in a parasagittal plane 
into the central 
vertebral body, with central disruption of the superior endplate 
demonstrate 
on the preceding CT, consistent with a nondisplaced fracture. 
  
There is minimal edema in the anterior aspect of the C4-C5 disc, 
which may be 
either posttraumatic or degenerative, as there is loss of disc 
height and 
endplate degenerative changes. 
  
C2-C3:  Small disc protrusion does not contact the spinal cord 
or 
significantly narrow the spinal canal.  No significant neural 
foraminal 
narrowing. 
  
C3-C4:  Small disc protrusion indents the ventral thecal sac and 
mildly 
remodels the ventral spinal cord with mild to moderate spinal 
canal narrowing. 
Neural foramina are not well assessed due to motion artifact. 
  
C4-C5: Broad-based central endplate osteophyte ridge moderately 
narrows the 
spinal canal with ventral spinal cord flattening.  At least 
moderate bilateral 
neural foraminal narrowing by uncovertebral and facet 
osteophytes. 
  
C5-C6:  Central broad-based disc protrusion with endplate 
osteophytes, larger 
on the right than left, contact the right ventral spinal cord.  
Spinal canal 
narrowing is only mild.  At least moderate right neural 
foraminal narrowing by 
uncovertebral and facet osteophytes. 
  
C7-T1:  Posterior endplate osteophyte ridge, larger on the left 
than right, 
indents the ventral thecal sac without spinal cord contact.  At 
least moderate 
left neural foraminal narrowing by uncovertebral and facet 
osteophytes. 
  
C7-T1:  Minimal anterolisthesis.  Small central disc protrusion 
without spinal 
canal or neural foraminal narrowing. 
  
Evaluation of spinal cord signal on sagittal T2 weighted images 
is limited by 
motion artifact.  No cord signal abnormalities are seen on axial 
T2 weighted 
images.  Diffusion-weighted images demonstrate no evidence for 
cord contusion 
or infarction. 
  
The cerebellar tonsils are normally positioned.  Axial T2 
weighted images 
demonstrate volume loss in bilateral cerebellar hemispheres was 
prominent 
fissures, and a small chronic infarction a left cerebellar 
hemisphere, as seen on the ___ CT head. 
  
IMPRESSION: 
  
1. Motion limited exam. 
2. C4 anterior superior corner fracture with disruption of the 
anterior 
longitudinal ligament.  Edema between the laminae of C3 and C4 
bilaterally, 
abutting the posterior aspects of the facet joints, without 
facet joint 
disruption or extension into the spinous processes/interspinous 
ligament.  No 
spondylolisthesis. 
3. C7 anterior superior corner fracture extending into the 
central vertebral 
body, with disruption of the anterior longitudinal ligament. 
4. Edema in the anterior aspect of the C4-C5 disc may be 
posttraumatic or 
degenerative. 
5. Prevertebral edema from the craniocervical junction through 
T3-T4. 
6. No evidence for spinal cord signal abnormalities. 
7. Multilevel cervical degenerative disease. 

___ PLAIN RADIOGRAPH C-SPINE:
FINDINGS:  
  
Interval anterior C6-C7 fusion with plate, screws, interbody 
spacer.  Fracture 
of the anterior superior corner of C4 vertebral body.  
Prevertebral soft 
tissue edema is more prominent compared with prior radiograph.  
Degenerative 
changes cervical spine.  There is minimal retrolisthesis of C3 
on C4, similar. 
Temperature probe in the hypopharynx.  Oral tube in place.  
Surgical hardware 
elsewhere. 
  
IMPRESSION:  
  
C6-C7 anterior fusion.  Fracture anterior C4 vertebral body.  

___ ECG:
 
Atrial fibrillation with a rapid ventricular response. Right 
bundle-branch 
block. Premature ventricular complex. Possible old anteroseptal 
myocardial 
infarction. Low voltage in the limb leads. No previous tracing 
available for 
comparison.  
TRACING #1 

___ CXR:
IMPRESSION:  
  
No previous images.  Cardiac silhouette is within upper limits 
of normal in 
this patient with intact midline sternal wires.  Mild 
engorgement and 
indistinctness of pulmonary vessels is consistent with some 
elevation of 
pulmonary venous pressure.  The left hemidiaphragm and 
costophrenic angle are 
not well seen, suggesting some layering effusion with 
compressive atelectasis 
at the base.  No evidence of acute focal pneumonia, though this 
would be 
difficult T definitely exclude in the appropriate clinical 
setting, especially 
in the absence of a lateral view. 

___ TTE:
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity size is normal. There is severe regional left ventricular 
systolic dysfunction c/w CAD in mid LAD distribution (wrap 
around LAD). Diastolic function could not be assessed. Right 
ventricular chamber size and free wall motion are normal. The 
number of aortic valve leaflets cannot be determined. There is 
no aortic valve stenosis. The mitral valve leaflets are mildly 
thickened. Mild to moderate (___) mitral regurgitation is seen. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

IMPRESSION: Severe regional systolic dysfunction c/w CAD in the 
LAD distribution.

___ CTA HEAD AND NECK:
FINDINGS:  
  
NONCONTRAST CT HEAD:  There is no intra or extra-axial mass 
effect, acute 
hemorrhage or acute large territorial infarct.  Prominent 
ventricles and sulci 
suggest age-related involutional changes.  Periventricular and 
subcortical 
white matter hypodensities are nonspecific, though likely 
sequelae of chronic 
small vessel ischemic disease.  Rounded hypodensities in the 
bilateral basal 
ganglia likely reflect old lacunes. Encephalomalacia in the left 
cerebellar 
hemisphere is consistent with prior infarct. 
  
CTA HEAD: Focal 2 mm outpouching within the C6 segment of the 
left internal 
carotid artery could represent aneurysm or infundibulum (3:250). 
 Moderate 
atherosclerotic calcification addition and narrowing of the 
right petrous and 
lacerum internal carotid artery.  Extensive atherosclerotic 
calcification of 
the bilateral cavernous through supraclinoid internal carotid 
arteries results 
in bilateral mild to moderate narrowing.  The right A1 segment 
is generally 
hypoplastic.  Otherwise, vessels of the circle of ___ and 
their principal 
intracranial branches are patent without evidence of occlusion 
or high-grade 
stenosis. 
  
CTA NECK:  There is a 3 vessel arch.  The left vertebral artery 
is occluded 
throughout much of its cervical course with focal reconstitution 
in scattered 
V2 segments throughout its cervical course, reconstitutes in the 
proximal 
portion of the V3 segment via muscular collaterals (series 3, 
image 208-9), 
and is again completely occluded in the mid-to-distal portions 
of the V4 
segment. Focal 2 mm outpouching in the distal V4 segment just 
before joining 
the basilar artery (3:236) most compatible with remnant V4, 
although a small 
aneurysm is not entirely excluded.  Atherosclerotic 
calcification of the right 
vertebral artery origin results in at least moderate narrowing.  
Otherwise, 
the right vertebral artery and common carotid arteries are 
patent throughout 
their cervical course without evidence of occlusion, high-grade 
stenosis, 
dissection or aneurysm formation.  Moderate calcified plaque at 
the bilateral 
carotid bifurcation.  There is approximately 50% stenosis of the 
right 
cervical internal carotid artery by NASCET criteria.  There is 
approximately 
10% stenosis of the left cervical internal carotid artery by 
NASCET criteria.  
Extensive atherosclerotic calcification of the bilateral 
subclavian arteries 
are noted, resulting in mild to moderate narrowing throughout 
most of their 
visualized course. 
  
Right innominate artery stent is patent. Extensive 
atherosclerotic 
calcification of the great vessels with chronic ulcerated 
plaques within the 
aortic arch and proximal descending thoracic aorta. 
  
OTHER:  Bilateral peribronchovascular and ground-glass 
opacities, 
predominantly within the left upper lobe, suggest infectious 
etiology. 
Partially visualized bilateral nonhemorrhagic pleural effusions 
with 
associated atelectasis. Moderate paraseptal and centrilobular 
emphysema.  
Prominent mediastinal lymph nodes, likely reactive.  Thyroid 
gland is 
unremarkable without discrete nodule.  There is no cervical 
lymphadenopathy by 
size criteria 
  
IMPRESSION: 
  
  
1. Focal 2 mm outpouching within the C6 segment of the left 
internal carotid 
artery present aneurysm or infundibulum. 
2. Focal 2 mm outpouching of the basilar artery at the left V4 
bifurcation, 
most likely represents remnant V4 artery.  Aneurysm is not 
entirely excluded 
but considered much less likely. 
3. Near complete occlusion of the left vertebral artery 
throughout its 
cervical course with scattered short focal reconstitution in V2 
segments with 
reconstitution at the V3 segment from muscular collaterals with 
subsequent 
reocclusion within the mid-to-distal portions of the V4 segment. 

4. 50% stenosis of the right and 10% stenosis of the left 
cervical internal 
carotid arteries by NASCET criteria. 
5. Extensive atherosclerotic disease with chronic ulcer plaques 
of the aorta 
and proximal descending thoracic aorta.  Additional prominent 
atherosclerotic 
disease as described above. 
6. Bilateral peribronchovascular ground-glass opacities 
predominantly within 
the left upper lobe, suggestive of infectious etiology. 
7. Bilateral nonhemorrhagic pleural effusions with associated 
atelectasis.

___ MRI HEAD W/O CONTRAST:
FINDINGS:  
  
The sagittal T1 weighted images are severely degraded by motion 
artifact. 
  
Moderate prominence of the ventricles and sulci is unchanged and 
consistent 
with global atrophy.  There is no evidence of hemorrhage, edema, 
mass, mass 
effect, or acute infarction.  Confluent and scattered punctate 
periventricular 
and subcortical white matter FLAIR hyperintensities are 
nonspecific but likely 
sequelae of chronic microangiopathy in a patient this age.  A 
cluster of small 
T2 hyperintense foci in the basal ganglia bilaterally following 
the signal 
intensity of CSF on all sequences likely represent prominent 
perivascular 
spaces.  Lack of flow related signal of the left V3 segment and 
portions of 
the left V4 segment corresponding to findings on CTA of ___.  The 
remainder of the principal intracranial vascular flow voids are 
preserved.  
There is fluid signal in a few left mastoid air cells.  The 
orbits are 
unremarkable. 
  
IMPRESSION:  
  
1.  No evidence of hemorrhage, edema, mass, mass effect, or 
acute infarction. 
  
2.  Moderate global atrophy and chronic white matter changes 
likely 
representing small vessel ischemic disease. 

___ CXR:
IMPRESSION:  
  
Heart size and medius sternum are stable.  The patient is after 
aortic valve 
replacement.  Lungs overall clear.  There is no appreciable 
pleural effusion 
or pneumothorax. 
 

  

 
Brief Hospital Course:
Mr. ___ is an ___ y/o with a reported h/o non-rheumatic 
aortic valvular disease otherwise unspecified, history of cabg, 
aortic aneurism without surgical intervention, CKD unspecified 
stage, GIB, PVD, and dementia who initially presented to the 
hospital with three weeks of increasing chest pain with exertion 
and a mechanical fall from his wheelchair.

His fall resulted in a fracture of C4 and disruption of the 
C6-C7 disk. He underwent fusion of C6-C7 and was being 
discharged to rehab when he was found to have Afib with RVR to 
the 160's. He was then transferred to medicine for further care.

#Afib with RVR: On ___ Mr. ___ was in pain with a heart 
rate of 160's with Afib on EKG. He was given IV metoprolol 5mg 
with resolution the heart rate to the 100's and chest pain. He 
was started on oral metoprolol and remained rate controlled 
throughout his stay. He was started on apixiban when he was able 
to tolerate PO medications.

#NSTEMI: During the evaluation of RVR, patient was found to have 
troponin of 1.75. The history of 3 weeks of increasing 
exertional chest pain was elicited and a history of hypotension 
during his operation followed by pain "all over" in the PACU. It 
is likely that he had an NSTEMI (and/or demand ischemia during 
his Afib with RVR). He was medically managed, including with a 
heparin gtt for 48 hours. He had an echocardiogram which showed 
an LVEF of 23% and anteroseptal hypokinesis. Given his 
comorbidities and DNR/DNI status, catheterization was not felt 
to be appropriate. He was continued on his metoprolol which he 
tolerated well, and did not have any additional chest pain 
episodes while in the hospital.

#TIA: On the morning of ___ Mr. ___ was found to have a 
left sided facial droop and was disarthric. A code stroke was 
called and a CTA and MRI did not find any clots or bleeding. He 
quickly regained some of his ability to speak and had 
improvement in his facial droop. However, he continued to have 
some difficulty swallowing for several days which continued to 
improve and ultimately he was discharged to rehab on a pureed 
diet with thin liquids (meds crushed and given in applesauce). 
With a believed cardiac source and given a history of Afib, he 
was started on the above anticoagulation.

#Hypernatremia: Mild, persistently elevated sodium. Most likely 
due to inadequate free water intake. He was given ___ NS as 
needed until his PO intake increased. He was able to maintain a 
normal sodium without requiring any additional IVF prior to 
discharge.  Discharge sodium 140.

===================
TRANSITIONAL ISSUES
===================
Medications Started: Apixaban 5 mg PO/NG BID, Aspirin 81 mg 
PO/NG DAILY, Atorvastatin 80 mg PO/NG QPM, Metoprolol Tartrate 
25 mg PO/NG BID, Lisinopril 5 mg PO/NG DAILY 
- Patient to follow up in Orthopedic Spine clinic with Dr. 
___. Call ___ to schedule
- Please check chem 10 within ___ days of discharge to make sure 
patient is able to meet his nutritional needs with PO intake.
- Please monitor PO intake, and encourage PO intake
- Please monitor BP as patient started on ACEi Lisinopril this 
admission
- Consider switching metoprolol tartrate 25mg BID to metoprolol 
succinate 50mg once daily if and when he is able to tolerate 
taking pills w/o needing them crushed
- Please monitor for ability to void. Foley removed on day of 
discharge

Code: DNR/DNI confirmed, has MOLST

Name of health care proxy: ___ 
Relationship: daughter 
Phone number: ___ 
Cell phone: ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Bisacodyl 10 mg PO DAILY:PRN constipation 
3. Docusate Sodium 100 mg PO BID 
4. melatonin 3 mg oral QHS 
5. Milk of Magnesia 30 mL PO Q12H:PRN constipation 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
7. Guaifenesin-Dextromethorphan 10 mL PO Q4H:PRN Cough 
8. Mineral Oil Dose is Unknown  PR DAILY:PRN Constipation 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Apixaban 5 mg PO BID  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Docusate Sodium 100 mg PO BID  
6.  Lisinopril 5 mg PO DAILY  
7.  Metoprolol Tartrate 25 mg PO BID  
8.  Miconazole Powder 2% 1 Appl TP TID groin rash  
9.  Mineral Oil ___ mL PO DAILY:PRN Constipation  
10.  Bisacodyl 10 mg PO DAILY:PRN constipation  
11.  Guaifenesin-Dextromethorphan 10 mL PO Q4H:PRN Cough  
12.  melatonin 3 mg oral QHS  
13.  Milk of Magnesia 30 mL PO Q12H:PRN constipation  
14.  Ondansetron 4 mg PO Q8H:PRN nausea  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Primary Diagnoses:
-disc disruption at C6-7 and a C4 compression fracture.
-NSTEMI
-TIA

Secondary Diagnosis:
-Dysphagia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital for a fall from you wheelchair and were 
found to have a neck fracture and damage to your the discs in 
your neck. You underwent a surgery to fix this.

During your stay you had a rapid heart rate and a myocardial 
infarction (heart attack). You have been started on medications 
to help keep that from happening again.

Also during your stay, you had a transient ischemic attack 
("TIA") which caused a sudden loss of function in your speech 
and swallowing. You are recovering from this well, but will need 
further rehab.

You were started on a blood thinner, called Apixaban, to help 
prevent blood clots and hopefully prevent further strokes or 
TIA's.

Below are the instructions from you surgeon.

ACTIVITY: DO NOT lift anything greater than 10 lbs for 2 weeks 
following your surgery. 

___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

You will be more comfortable if you do not sit or stand more 
than ~45 minutes without changing positions.

BRACE: You have been given a brace. This brace should be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.

WOUND: Remove the external dressing in 2 days. If your incision 
is draining, cover it with a new dry sterile dressing. If it is 
dry then you may leave the incision open to air. Once the 
incision is completely dry, (usually ___ days after the 
operation) you may shower. Do not soak the incision in a bath or 
pool until fully healed. If the incision starts draining at any 
time after surgery, cover it with a sterile dressing. Please 
call the office. 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

All of our best,
Your ___ Care Team
 
Followup Instructions:
___